5
R0102 1 2 0 -0.7 0 0.4 0 -0.2 0 0.027
R0301 3 1 1.88
L0300 3 0 1
C0104 1 4 0.31
C0304 3 4 1
H0500 5 0 2 0 1
V0400 4 0 PULSE 0 1 0 0 0 10000 20000 1
.TRAN 1000 10E-3 BE 1
